Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Enalapril / Univasc
 
Attending: ___.
 
Chief Complaint:
Labored breathing
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with pmhx of DM, HTN, HL, hx pulmonary nodules in ___ 
which she elected to have no further workup, presents today with 
SOB. Today daughter noted "heavy breathing" at home, heard 
wheezes, placed on SpO2 and was 88-90% RA. No recent fevers or 
cough. Eating and drinking however needs some encouragement from 
family, takes glucerna shake ___ daily. She has also had some 
increasing confusion x ___ days, one daughter thought started 
last week (2 nights ago didn't sleep at all, very confused). She 
has some underlying dementia (waxes and wanes, sometimes forgets 
daughters name) but her mental status has been worse in past 
several days.
  
Sometimes her daughter's notice pt having particularly foul 
smelling breath more again now. They have not witnessed her 
choking on food. She continues to make urine frequently (bladder 
prolapse, no loss of urine) and have regular bowel movements 
(commode at bedside at home). The pt's only complaint to them is 
that her eyes are bothering her. Pt has been legally blind for 
sometime but frequently complains that her eyes are giving her 
trouble per her daughters. Pt's daughters help her with her 
medication. Help with dressing, showering, make food, do 
shopping, family finances. No new medications. Able to eat by 
herself. Daughter unsure if she has been taking nifedipine at 
home.  

In the ED, initial vitals were 98.8 69 220/76 16 100%.  
-Labs notable for normal CBC, normal chemistires, Cr 1.5 
(baseline 1.7). UA negative. Exam was notable for RR ___ ___nd LS diminished t/o R lower silent, exp wheezes.  
-Pt was given duo nebs  
Vitals prior to arrival to the floor: 98.2 70 194/62 14 94% RA  

Review of Systems:  
(+) per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, chest pain, 
abdominal pain, nausea, vomiting, diarrhea, constipation, BRBPR, 
melena, hematochezia, dysuria, hematuria. 
 
Past Medical History:
Type 2 diabetes mellitus, c/b neuropathy
Hypercholesterolemia
Systolic hypertension (difficult to control)
Blindness (secondary to glaucoma and cataracts)
h/o Type 4 RTA
Aortic regurgitation (mild)
RLL paraspinal mass, found on CT in ___, but pt declined 
further workup or treatment
h/o ischemic colitis
hearing loss 
Dementia 
 
Social History:
___
Family History:
She has no history of coronary artery disease. Family history 
positive for DMII. Otherwise family history was unremarkable.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
===========================
Vitals - 98.3, 220/89, 70, 97% on 2L  
GENERAL: NAD, AOx1, resting comfortably, hard of hearing  
HEENT: AT/NC, opacification of lenses, anicteric sclera, pink 
conjunctiva, MMM  
NECK: nontender supple neck  
CARDIAC: RRR, II/VI SEM  
LUNG: decreased breath sounds over R lung up to ___ of lung 
base, few expiratory wheezes over left lung  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding  
EXTREMITIES: no cyanosis, clubbing or edema  
NEURO: moving all extremities with purpose, symmetric face, 
follows commands  
SKIN: skin tags on face and neck  

DISCHARGE PHYSICAL EXAM:
===========================
Vitals - Tm 99, Tc 98.2, HR 72 (62-74), BP 152/62 
(146-184/54-77), RR ___, O2 sat 93-100% RA 
GENERAL: NAD, breathing comfortably, hard of hearing, sitting at 
edge of bed  
HEENT: AT/NC, opacification of lenses, R>L, anicteric sclera, 
pink conjunctiva, MMM, unable to visualize posterior OP given 
large tongue  
NECK: nontender supple neck, no LAD noted  
CARDIAC: RRR, II/VI SEM heard best at RUSB, however heard 
throughout the precordium  
LUNG: decreased breath sounds over R lung up to ___ of lung 
base, clear on the L and in R apex, no wheezes noted ___ 
patient upright, no crackles  
ABDOMEN: obese, nondistended, +BS, nontender in all quadrants, 
no rebound/guarding  
EXTREMITIES: no cyanosis, clubbing or edema  
NEURO: moving all extremities with purpose and on command, 
symmetric face, follows commands, speech fluid in ___, 
answering questions appropriately. A+O to person alone.
SKIN: skin tags on face and neck
 
Pertinent Results:
ADMISSION LABS:
===================
___ 07:12PM BLOOD WBC-7.9 RBC-4.55 Hgb-13.3 Hct-38.8 MCV-85 
MCH-29.2 MCHC-34.3 RDW-14.8 Plt ___
___ 07:12PM BLOOD Neuts-66.8 ___ Monos-5.7 Eos-2.8 
Baso-0.3
___ 08:40PM BLOOD Glucose-82 UreaN-27* Creat-1.5* Na-139 
K-4.2 Cl-101 HCO3-26 AnGap-16
___ 08:40PM BLOOD Calcium-9.1 Phos-3.8 Mg-2.5
___ 07:24PM BLOOD Lactate-1.3
___ 08:48PM BLOOD Lactate-1.4
___ 06:55PM URINE Color-Straw Appear-Clear Sp ___
___ 06:55PM URINE Blood-NEG Nitrite-NEG Protein-300 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 06:55PM URINE RBC-2 WBC-1 Bacteri-FEW Yeast-NONE Epi-1
___ 06:55PM URINE Mucous-RARE

DISCHARGE LABS:
==================
___ 04:40AM BLOOD WBC-6.8 RBC-4.13* Hgb-11.8* Hct-35.5* 
MCV-86 MCH-28.6 MCHC-33.3 RDW-14.9 Plt ___
___ 04:40AM BLOOD Glucose-84 UreaN-30* Creat-1.7* Na-137 
K-4.3 Cl-98 HCO3-29 AnGap-14
___ 04:40AM BLOOD Calcium-8.3* Phos-4.3 Mg-2.6

MICROBIOLOGY:
==================
___ 7:12 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ BLOOD CULTURES: pending at time of discharge

REPORTS:
==================
___ EKG:
Sinus rhythm. Left atrial abnormality. ST segment flattening in 
the lateral and high lateral leads consistent with possible 
ischemia. Compared to the previous tracing of ___ the 
findings are similar. 

___ CXR (PA AND LAT)
Since prior, there has been interval progression of disease. 
There is a approximately 12 cm AP by 12 cm CC rounded density 
within the right lower lobe. There is also likely some 
superimposed component of atelectasis given subtle right-sided 
volume loss. On prior exam from ___ there had been a 2.5 cm 
nodule in this region in addition to a sub- carinal density 
which on the current exam cannot be differentiated. On today's 
exam, there is also a new right apical pulmonary nodule 
projecting over the posterior right fourth rib. Cardiac 
silhouette is enlarged but stable. Atherosclerotic 
calcifications noted at the aortic arch. 
IMPRESSION:  
Significant interval enlargement of previously known masses 
since ___. Probable superimposed component of postobstructive 
atelectasis. New right apical pulmonary nodule. 

___ CT CHEST WO CONTRAST
1. Significant interval increase in the size of the mass in the 
right paraspinal region, measuring up to 10 cm, compared to the 
prior exam from ___ at which time this measured no more than 
5.7 cm. There is no distinct fat plane between this mass, and 
the left atrium, esophagus, and posterior parietal pleura. There 
is no evidence of invasion into the adjacent bony structures. 
  
2. There is significant adjacent mass effect on the right lower 
lobe bronchus, with partial atelectasis of the right lower lobe. 
Although there is mass effect on the right middle lobe bronchus, 
there is no evidence of atelectasis. The right upper lobe 
appears to be well aerated. There are small bilateral pleural 
effusions. 
  
3. New nodule is seen at the right lung apex, measuring up to 
1.4 cm, 
concerning for metastatic disease. There has been an interval 
increase in a pleural-based nodule, in the right middle lobe, 
measuring up to 1.6 cm 
potentially also metastatic disease although rounded atelectasis 
is possible. Interval decrease in size of left-sided pulmonary 
nodule. 
 
Brief Hospital Course:
___ with pmhx of DM, HTN, HL, hx known previous pulmonary 
nodules dating back to ___, who presents with SOB and interval 
increase in her R pulmonary nodule and concern for metastatic 
nodules, with associated atelectasis.

ACTIVE ISSUES:
================
# Pulmonary/Chest mass:
Patient presents with worsening SOB in the setting of known 
pulmonary nodules since ___ which she and her family decided to 
not pursue further workup given patient was asymptomatic at that 
time. Increased audible wheezing most notable in supine 
position, with some increase in accessory muscle use at times, 
however otherwise patient without subjective sensation of SOB or 
cough. CXR and CT imaging showed interval increase in a known R 
sided pulmonary nodule, first noted in ___, now measuring up to 
10cm, with some associated RLL collapse. There is also a nodule 
in R apex concerning for metastatic dz. Initially on continuous 
O2 monitoring, with stable oxygen saturation in the mid to high 
___ on room air, with standing duoneb treatment for comfort and 
wheezing. The patient remained afebrile and without hemoptysis 
or productive cough, leading to low suspicion for bronchial 
invasion or post-obstructive pneumonia. 

After a discussion with the patient's daughter ___, who is a 
nurse, it was determined that the family would still like to 
pursue noninvasive measures to reinflate the patient's collapsed 
lung if possible, so IP was consulted for any palliative 
measures they might be able to provide. Per discussions with IP, 
there was little likely benefit from bronchoscopy with stenting, 
and given the patient's age and comorbidities, the risks 
outweighed the benefits. This was discussed with the patient's 
family, who agreed this would not be within the patient's goals 
of care. The family wished to continue with comfort focused care 
at home, and wanted to continue with nebulizer treatments for 
symptomatic relief in the future, so patient supplied with home 
nebulizer and duoneb script. Per daughter ___, who lives with 
the patient, the patient does not currently have ___ services in 
place, but would like to set this up, so was arranged on 
discharge. A follow up appointment was set up with the patient's 
PCP in order to encourage ongoing discussion and evaluation of 
the patient's comfort, and for consideration of a future role 
for hospice and palliative care. 

#Acute encephalopathy with Dementia:
The patient has underlying dementia, with some associated 
sundowning delirium at baseline, at times forgetting her 
daughter's names. ___ in the hospital, the patient did exhibit 
some delirium overnight of the first hospital day, with minimal 
response to olanzapine and trazodone, however with reorientation 
and with presence of family members, the patient remained 
largely at her mental status baseline, and had no further 
episodes of delirium. Infectious workup with bland UA, blood 
cultures pending, but no growth by time of discharge, urine 
culture with mixed flora, with no concerning lab values for 
infection. There was low suspicion for CO2 retention given 
patient was not somnolent or lethargic, however a venous blood 
gas was done and did not show evidence of retention. Possibility 
of metastatic brain disease was discussed, however given the 
patient and her family's goals of care, head imaging was not 
pursued. Placed on standard delirium and fall precautions, 
including low boy bed, ___ inpatient.

# HTN, benign:
Initially on arrival to the hospital, the patient was 
hypertensive to the 220s, in the setting of not taking her daily 
anti-hypertensive medications. Once she was restarted on her 
home medications, her BPs improved, and on day of discharge were 
ranging 140s-180s systolic, which is consistent with her 
outpatient pressure recordings, at times to the 180s. Given 
patient's age, more aggressive anti-HTN regimen was not pursued 
this admission. No sign of end organ damage, without headaches, 
CP, or EKG changes, and no evidence of ___, with baseline 
confusion/mental status. ___ services to check BP at each visit, 
and patient scheduled to see PCP on ___.

# DMII uncontrolled:
Patient on very high doses of basal insulin at home, humalog 
___ 84 units with breakfast and 44 units at bedtime. Initially 
continued on home insulin regimen, however did have two episodes 
of hypoglycemia, one on evening of hospital day one with FSBS 
60, and her ___ insulin dose was held, and another FSBS to 40 on 
day of discharge, given dextrose with rapid improvement. This 
likely occurred in the setting of a strict diabetic diet ___ 
in hospital, not eating regular home meals, however will need 
close follow up and monitoring of her blood sugar levels. 
Discharged on decreased basal insulin of 64 units with breakfast 
and 24 units at bedtime. Scheduled to see her outpatient PCP ___. 
___ on ___. ___ services instructed to check her 
FSBS at each visit.

CHRONIC ISSUES:
=================
# Neuropathy: 
Stable, however given family's initial concern for worsening 
confusion and altered mental status, the patient's home 
gabapentin was reduced in hospital to 300mg BID prn pain, and 
discharged back on home dose (900mg BID per daughters) given 
mental status was largely at baseline. Can consider 
downtitrating as an outpatient if patient's mental status 
appears to worsen from baseline.

# CKD III: 
Stable, with Cr ranging 1.5-1.7 which is at patient's baseline. 

TRANSITIONAL ISSUES:
====================
# Patient started on nebulizer treatment with duonebs, for 
symptomatic treatment of wheezing and shortness of breath at 
home, and a home nebulizer machine was ordered for the patient 
through home oxygen services.
# Home ___ set up for the patient this admission, to monitor BP 
and blood sugar levels at home, given low blood sugar this 
admission on patient's home insulin regimen
# Plan for follow up with patient's PCP on ___, 
to further discuss future care of this patient, including 
potential role of palliative care versus hospice in the future 
once patient develops worsening symptoms.
# Given patient's age and multiple medications, may consider in 
discussion with PCP utility of continuing statin therapy, to 
reduce medication list burden to family and patient.
# Discharged on home dose of gabapentin, however given confusion 
and episodes of delirium, may consider downtitrating this 
medication as an outpatient.
# Discharged on decreased dose of basal insulin, 64 units with 
breakfast, 24 units at bedtime, given episodes of hypoglycemia 
to the ___ ___ inpatient, to be closely monitored by ___ 
services with daily blood sugar checks, with any further 
episodes of hypoglycemia called in to PCP, ___ 
(___).
# Code: DNR/DNI confirmed with daughter 
# Contact: ___ (___ who lives with pt) ___ 
___ (daughter, nurse, lives upstairs from patient) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Valsartan 320 mg PO DAILY 
2. Gabapentin 900 mg PO BID 
3. Ketoconazole Shampoo 1 Appl TP ASDIR weekly 
4. Metoprolol Succinate XL 200 mg PO DAILY 
5. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
6. Docusate Sodium 100 mg PO BID 
7. NIFEdipine CR 90 mg PO DAILY 
8. Atorvastatin 40 mg PO QPM 
9. Hydrochlorothiazide 25 mg PO DAILY 
10. aspirin-dipyridamole ___ mg oral BID 
11. Humalog ___ 84 Units Breakfast
Humalog ___ 44 Units DinnerMax Dose Override Reason: home 
dosing, if blood dusgar <85 in AM, reduce ___ insulin by 10 U

 
Discharge Medications:
1. Atorvastatin 40 mg PO QPM 
2. Docusate Sodium 100 mg PO BID 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. NIFEdipine CR 90 mg PO DAILY 
5. Valsartan 320 mg PO DAILY 
6. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
7. nebulizer and compressor 1 machine miscellaneous q6:PRN 
SOB/wheeze 
RX *nebulizer and compressor  Supply 1 Nebulizer set up for 
q6hrs nebulizer administration Disp #*1 Each Refills:*0
8. Metoprolol Succinate XL 200 mg PO DAILY 
9. Ketoconazole Shampoo 1 Appl TP ASDIR weekly 
10. aspirin-dipyridamole ___ mg oral BID 
11. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN SOB/wheeze 
This is a new medication to treat your shortness of breath. 
RX *ipratropium-albuterol 0.5 mg-3 mg (2.5 mg base)/3 mL 1 NEB 
INH q6hrs Disp #*60 Ampule Refills:*3
12. Humalog ___ 64 Units Breakfast
Humalog ___ 24 Units DinnerMax Dose Override Reason: home 
dosing, if blood dusgar <85 in AM, reduce ___ insulin by 10 U

13. Gabapentin 900 mg PO BID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
-Lung mass
-Diabetes Mellitus, Type II with episodes of hypoglycemia 

Secondary Diagnoses:
-Hypertension 
-Dementia with delirium 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid 
(usually guides herself with the wall, or with the help of one 
of her family members).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your recent hospial 
stay at the ___. You came in 
because your family was concerned that you had some increased 
labored breathing at home, with some worsening confusion at 
home. We got an image of your chest, including a chest 
radiograph as well as a CT scan, which showed increase of the 
pulmonary nodule that was first noticed in ___. You remained 
somewhat confused ___ you were here, but in general no worse 
than you are at home at times. We checked your blood and urine 
for any infections and these were without any bacterial growth 
at time of discharge, and you remained without any fevers or 
signs of infections.

We spoke with the lung interventional specialist to see if there 
was any noninvasive option to try and open up some of your lung 
that has been taken over by the lung mass.  Given your age and 
other medical problems, the risks are likely much greater than 
the benefits, so we decided to focus on making you more 
comfortable, with nebulizer treatments, and your breathing 
remained stable and you were comfortable.

We have started to arrange for a nebulizer machine to be set up 
at home for you, for when you feel short of breath or with 
wheezing. You also have a follow up appointment with your 
primary care doctor on ___, to talk more about how to 
make sure you continue comfortable with your breathing at home.

You also had some low blood sugars ___ you were here, taking 
your home insulin medication. Because your sugar levels were 
low, we decreased your home insulin dose to prevent this in the 
future. You should also talk with your primary care doctor about 
this change at your next visit.

Your medication list, as well as your future medical 
appointments, are listed below for you. We have also arranged 
for visiting nurses to come help your family with your care at 
home, and they will be checking your blood sugar levels and your 
blood pressure, and help teach you how to use your nebulizer 
treatment.

We wish you all the best with your health.

Sincerely,
Your ___ Team
 
Followup Instructions:
___